US08957089B2
98.3 N-[2-(4-methoxyphenyl)ethyl]-1-(pyridin-2-yl)cyclobutanecarboxamide
1-(6-Chloropyridin-2-yl)cyclobutanecarboxylic acid hydrochloride (2.6 g, 10.48 mmol) was suspended in dichloromethane (30 ml). 2-(4-Methoxyphenyl)ethanamine (1.743 g, 11.53 mmol) and 4-dimethylaminopyridine (2.56 g, 20.96 mmol) were added and stirring at room temperature was continued for 30 min. The reaction mixture was cooled to 0° C. and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.21 g, 11.53 mmol) was added in small portions. The reaction mixture was allowed to warm to room temperature and stirring was continued over night. The reaction mixture was poured on water. The aqueous layer was extracted with dichloromethane (3×). The combined organic layers were washed with 5% aqueous citric acid and dried (MgSO4). The solvent was evaporated in vacuo and the crude product purified by flash chromatography (silica, heptane, ethyl acetate). Yield: 709 mg (2.056 mmol, 19.6%).

reactant | 1-(6-Chloropyridin-2-yl)cyclobutanecarboxylic acid hydrochloride | 10.48 mmol, 2.6 g | Cl.ClC1=CC=CC(=N1)C1(CCC1)C(=O)O
reactant | 2-(4-Methoxyphenyl)ethanamine | 11.53 mmol, 1.743 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11.53 mmol, 2.21 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20.96 mmol, 2.56 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[2-(4-methoxyphenyl)ethyl]-1-(pyridin-2-yl)cyclobutanecarboxamide | COC1=CC=C(C=C1)CCNC(=O)C1(CCC1)C1=NC=CC=C1 | C19H22N2O2
